US08431592B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]carbamic acid tert-butyl ester
478 mg (2.5 mmol) of 4-(4-methylpiperazino)aniline (Acros, N.J., USA) are dissolved in 10 ml of THF and 0.67 ml (3 mmol) of Boc2O and 0.49 ml (3.5 ml) of triethylamine are added. After stirring for 16 h at r.t., the solution is evaporated to dryness and the residue is dissolved in 100 ml of EtOAc. The suspension is washed with water, dried over MgSO4 and evaporated to dryness to provide the title compound. Title compound: ES-MS: 292.2 (M+H)+; analytical HPLC: tret=4.15 minutes (Grad 2).

reactant | 4-(4-methylpiperazino)aniline | 2.5 mmol, 478 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | Boc2O | 3 mmol, 0.67 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1CCN(CC1)C)=O | C16H25N3O2
